US08202876B2
A mixture of (6-chloro-pyrimidin-4-yl)-methyl-amine (10 g, 69.7 mmol), triethylamine (15 mL, 106.7 mmol), and dimethylaminopyridine (8.5 g, 69.5 mmol) in 100 mL dichloromethane is added di-t-butyl dicarbonate (18.75 g, 85.9 mmol) potion wise. The reaction mixture is kept stirring at room temperature for 4 hours and concentrated. The resultant crude product is treated with water and filtered. The obtained solid is dried under vacuum to give (6-Chloro-pyrimidin-4-yl)-methyl-carbamic acid tert-butyl ester: 1H NMR 400 MHz (d6-DMSO) δ 8.80 (s, 1H), 8.04 (s, 1H), 3.37 (s, 3H), 1.52 (s, 9H); MS m/z 244.10 (M+1).

reactant | (6-chloro-pyrimidin-4-yl)-methyl-amine | 69.7 mmol, 10 g | ClC1=CC(=NC=N1)NC | C5H6ClN3
reactant | triethylamine | 106.7 mmol, 15 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 69.5 mmol, 8.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-t-butyl dicarbonate | 85.9 mmol, 18.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (6-Chloro-pyrimidin-4-yl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=NC=NC(=C1)Cl)=O | C10H14ClN3O2
